US06005000
A total of 3.4 mL (10.2 mmol) of 3.0 M methylmagnesium iodide was added to a solution of 2.34 g (10 mmol) of ethyl 4-chlorobenzoylformate in THF in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to give prior to hydrogenolysis 1.3 g (40% yield) of 5-(4-chlorophenyl)-4-hydroxy-5-methyl-3-phenylmethoxy-2(5H)-furanone as a yellow oil: 1H NMR (CDCl3) δ 7.37-7.21 (m, 9H), 5.10 (s, 2H), 1.73 (s, 3H).

reactant | methylmagnesium iodide | 10.2 mmol, 3.0 M, 3.4 mL | C[Mg]I
reactant | ethyl 4-chlorobenzoylformate | 10 mmol, 2.34 g | ClC1=CC=C(C(=O)C(=O)OCC)C=C1 | C10H9ClO3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
solvent | THF | C1CCOC1 | C4H8O
product | 5-(4-chlorophenyl)-4-hydroxy-5-methyl-3-phenylmethoxy-2(5H)-furanone | 1.3 g, 40% yield | ClC1=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)C | C18H15ClO4
